US06780855B2
599 mg of 7α-(6-chlorohexyl)-11β-fluor-estra-1,3,5(10)-triene-3,17-diol is dissolved in 10 ml of ethylmethylketone, mixed with 675 mg of sodium iodide and stirred overnight at a bath temperature of 90° C. For working-up, the reaction mixture is cooled to room temperature, taken up in ethyl acetate, extracted once with 10% sodium thiosulfate solution, washed with common salt solution, dried on magnesium sulfate and concentrated by evaporation in a vacuum. 691 mg of 11β-fluor-7α-(6-iodohexyl)-estra-1,3,5(10)-triene-3,17-diol is obtained as a crude product, which is used without further purification in the next stage.

reactant | 7α-(6-chlorohexyl)-11β-fluor-estra-1,3,5(10)-triene-3,17-diol | 599 mg | ClCCCCCC[C@H]1[C@H]2[C@@H]3CCC([C@@]3(C)C[C@@H]([C@@H]2C=2C=CC(=CC2C1)O)F)O | C24H34ClFO2
reactant | sodium iodide | 675 mg | [I-].[Na+]
solvent | ethylmethylketone | 10 ml | C(C)C(=O)C | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 11β-fluor-7α-(6-iodohexyl)-estra-1,3,5(10)-triene-3,17-diol | 691 mg | F[C@@H]1[C@@H]2C=3C=CC(=CC3C[C@H]([C@H]2[C@@H]2CCC([C@@]2(C)C1)O)CCCCCCI)O | C24H34FIO2
